US05514680
6,7-Bis(trifluoromethyl)-1,4-dihydroquinoxaline-2,3-dione
A mixture of 102 mg (0.418 mmol) of 4,5-bis(trifluoromethyl)-1,2-phenylenediamine and 37 mg (0.411 mmol) of oxalic acid in 2 mL of 2N HCl was refluxed for 6 h and cooled to room temperature. The mixture was filtered and washed by water, CHCl3 and dried to leave a colorless solid (43 mg, 35%), mp>250° C. 1H NMR (DMSO-d6), 7.629 (s, 2) 12.293 (s, 2). 19F NMR (DMSO-d6), 62.185 (s).

reactant | 4,5-bis(trifluoromethyl)-1,2-phenylenediamine | 0.418 mmol, 102 mg | FC(C1=CC(=C(C=C1C(F)(F)F)N)N)(F)F | C8H6F6N2
reactant | oxalic acid | 0.411 mmol, 37 mg | C(C(=O)O)(=O)O | C2H2O4
solvent | HCl | 2N, 2 mL | Cl | ClH
product | 6,7-Bis(trifluoromethyl)-1,4-dihydroquinoxaline-2,3-dione | 43 mg, 35% | FC(C=1C=C2NC(C(NC2=CC1C(F)(F)F)=O)=O)(F)F | C10H4F6N2O2
